US07115611B2
A solution of 21.1 g (108 mmol) of (4-amino-2-methyl-phenoxy)-acetic acid methyl ester in 210 ml THF was treated with of 24.7 g (111 mmol) di-tert-butyl dicarbonate and heated for 3 h at 80° C. The solution was evaporated and purified by flash chromatography with a gradient of n-heptane: AcOEt (9:1 to 4:1) to yield 28.1 g of (4-tert-butoxycarbonylamino-2-methyl-phenoxy)-acetic acid methyl ester as a light pink crystalline residue.

reactant | (4-amino-2-methyl-phenoxy)-acetic acid methyl ester | 108 mmol, 21.1 g | COC(COC1=C(C=C(C=C1)N)C)=O | C10H13NO3
reactant | di-tert-butyl dicarbonate | 111 mmol, 24.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 210 ml | C1CCOC1 | C4H8O
product | (4-tert-butoxycarbonylamino-2-methyl-phenoxy)-acetic acid methyl ester | 28.1 g | COC(COC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)C)=O | C15H21NO5
